US04804658
A stirred solution of 5-chlorovaleryl chloride (50.0 g, 0.322 mol) in dichloromethane (300 ml) at 0° C. was treated dropwise with a solution containing cyclohexylamine (31.68 g, 0.320 mol), triethylamine (32.32 g, 0.320 mol) and dimethylaminopyridine (0.02 g) in dichloromethane (300 ml). The resulting solution was stirred for 2 hours at 0° C. and then for an additional 16 hours at room temperature. The solution was diluted with dichloromethane (400 ml), washed with water (3×200 ml), saturated aqueous sodium hydrogen carbonate (3×100 ml), saturated aqueous ammonium chloride (3×100 ml), and brine (2×100 ml) and then dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure to yield a crude product. The crude product was recrystallized from ethyl acetate-hexane to yield N-cyclohexyl-5-chloropentanamide as a colorless crystalline solid, having a melting point of 70°-71° C. and the following physical characteristics:

reactant | 5-chlorovaleryl chloride | 0.322 mol, 50.0 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | cyclohexylamine | 0.320 mol, 31.68 g | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 0.320 mol, 32.32 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.02 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | N-cyclohexyl-5-chloropentanamide | C1(CCCCC1)NC(CCCCCl)=O | C11H20ClNO
